* SPICE Netlist for the Differential Amplifier
* NMOS Transistors
? Missing component
M2 2 3 8 8 NMOS
M5 8 6 9 9 NMOS
* PMOS Transistors
M3 4 2 4 5 PMOS
M4 5 2 5 5 PMOS
* Resistor
R1 2 7 1k
* Voltage Sources
VDD 4 0 DC 1.8V
Vin1 1 0 DC 0.7V
Vin2 3 0 DC 0.7V
Vb 6 0 DC 0.9V
* Ground
VSS 9 0 0
.END
